US07691867B2
Ethyl 4-nitro-1H-pyrazole-3-carboxylate (741 mg, 4 mmol) was heated at 90° C. with a concentrated solution of aqueous ammonia (28%, 20 ml) in a sealed vessel for 3 hours. The mixture was evaporated and the residue was triturated with diethyl ether to give 4-nitro-1H-pyrazole-3-carboxamide (0.54 g, 86% yield) as a white solid:

reactant | Ethyl 4-nitro-1H-pyrazole-3-carboxylate | 4 mmol, 741 mg | [N+](=O)([O-])C=1C(=NNC1)C(=O)OCC | C6H7N3O4
reactant | ammonia | 20 ml | N | H3N
product | 4-nitro-1H-pyrazole-3-carboxamide | 0.54 g, 86% yield | [N+](=O)([O-])C=1C(=NNC1)C(=O)N | C4H4N4O3
